US07700598B2
46b 3-(3,5-bis-trifluoromethyl-phenyl)-2-oxo-Propionic acid
19.5 g (54.9 mmol) methyl 2-acetylamino-3-(3,5-bis-trifluoromethyl-phenyl)-acrylate in 100 mL 1,4-dioxane were heated to 100° C. bath temperature, combined with 100 mL 4 M HCl and stirred for 8 h at 100° C. bath temperature. The reaction mixture was evaporated down i. vac., the crystals were suction filtered, washed with water and dried in the drying cupboard at 50° C.

reactant | methyl 2-acetylamino-3-(3,5-bis-trifluoromethyl-phenyl)-acrylate | 54.9 mmol, 19.5 g | C(C)(=O)NC(C(=O)OC)=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H11F6NO3
reactant | HCl | 4 M, 100 mL | Cl | ClH
reactant | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 3-(3,5-bis-trifluoromethyl-phenyl)-2-oxo-Propionic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(C(=O)O)=O)(F)F | C11H6F6O3
